US06432993B1
t-Butyl N-[2-amino-5-(4-t-butoxycarbonylaminophenoxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(4-t-butoxycarbonylaminophenoxy)-2-nitrophenyl]-N-methylcarbamate (27.7 g), palladium on carbon (10%, 1.07 g) and tetrahydrofuran/ethyl acetate=9/8 (170 ml) and the reaction mixture was purified to give the title compound (26.2 g).

reactant | t-butyl N-[5-(4-t-butoxycarbonylaminophenoxy)-2-nitrophenyl]-N-methylcarbamate | 27.7 g | C(C)(C)(C)OC(=O)NC1=CC=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1 | C23H29N3O7
catalyst | palladium on carbon | 1.07 g | [Pd] | Pd
solvent | tetrahydrofuran ethyl acetate | O1CCCC1.C(C)(=O)OCC
product | t-Butyl N-[2-amino-5-(4-t-butoxycarbonylaminophenoxy)phenyl]-N-methylcarbamate | 26.2 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)NC(=O)OC(C)(C)C)N(C(OC(C)(C)C)=O)C | C23H31N3O5
